US07825256B2
A solution of tert-butylacetoacetate (7.90 g, 50.0 mmol) in anhydrous THF (50 mL) was cooled to 4° C. (ice-water bath) prior to dropwise addition of methylmagnesium chloride (16.3 mL of a 3.00M solution in THF, 50.0 mmol) at such a rate that the temperature did not exceed 10° C. After the addition was complete the cooling bath was removed. When the temperature reached 15° C., 2-chlorocarbonyl-pyrrolidine-1-carboxylic acid benzyl ester (6.60 g, 25.0 mmol) was added dropwise over 1 h then warmed to rt and stirred for 12 h. The reaction was quenched with saturated aqueous NH4Cl (30 mL). The organic layer was separated from the solid residues and concentrated under vacuum to give 9.74 g (quant.) of 2-(2-tert-butoxycarbonyl-3-oxo-butyryl)-pyrrolidine-1-carboxylic acid benzyl ester as a yellow oil. The product was used directly in the subsequent step without further purification.

reactant | tert-butylacetoacetate | 50.0 mmol, 7.90 g | C(C)(C)(C)OC(CC(=O)C)=O | C8H14O3
reactant | methylmagnesium chloride | C[Mg]Cl
reactant | 2-chlorocarbonyl-pyrrolidine-1-carboxylic acid benzyl ester | 25.0 mmol, 6.60 g | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C(=O)Cl | C13H14ClNO3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(2-tert-butoxycarbonyl-3-oxo-butyryl)-pyrrolidine-1-carboxylic acid benzyl ester | 9.74 g | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C(C(C(C)=O)C(=O)OC(C)(C)C)=O | C21H27NO6
